US07511150B2
According to other embodiments, the present invention provides methods of preparing N-(3,5-dichloropyrid-4-yl)-4-difluoromethoxy-8-methanesulfoneamide-dibenzo[b,d]furan-1-carboxamide comprising the steps of: (a) reacting 4-difluoromethoxy-3-hydroxybenzaldehyde with 2-bromo-1-fluoro-4-nitrobenzene in a first solvent comprising potassium fluoride to produce 4-difluoromethoxy-3-(4-nitro-2-bromophenoxy)benzaldehyde; (b) cyclizing 4-difluoromethoxy-3-(4-nitro-2-bromophenoxy)benzaldehyde in a second solvent comprising a catalyst to produce 4-difluoromethoxy-8-nitro-1-formyl dibenzofuran; (c) oxidizing 4-difluoromethoxy-8-nitro-1-formyl dibenzofuran in a third solvent comprising an oxidizing agent to produce 4-difluoromethoxy-8-nitrobenzo[b,d]furan-1-carboxylic acid; (d) reacting 4-difluoromethoxy-8-nitrobenzo[b,d]furan-1-carboxylic acid in a fourth solvent comprising an inorganic acid halide, 4-amino-3,5-dichloropyridine and a first base, wherein N-(3,5-dichloropyrid-4-yl)-4-difluoromethoxy-8-nitro-dibenzo[b,d]furan-1-carboxamide is produced; (e) reducing N-(3,5-dichloropyrid-4-yl)-4-difluoromethoxy-8-nitro-dibenzo[b,d]furan-1-carboxamide in the presence of a reducing agent to produce N-(3,5-dichloropyrid-4-yl)-4-difluoromethoxy-8-aminodibenzo[b,d]furan-1-carboxamide; and (f) reacting N-(3,5-dichloropyrid-4-yl)-4-difluoromethoxy-8-aminodibenzo[b,d]furan-1-carboxamide in a fifth solvent comprising methanesulfonyl chloride and a second base to produce N-(3,5-dichloropyrid-4-yl)-4-difluoromethoxy-8-(methanesulfonamide) dibenzo[b,d]furan-1-carboxamide.

reactant | 4-difluoromethoxy-3-hydroxybenzaldehyde | FC(OC1=C(C=C(C=O)C=C1)O)F | C8H6F2O3
reactant | 2-bromo-1-fluoro-4-nitrobenzene | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | potassium fluoride | [F-].[K+]
product | 4-difluoromethoxy-3-(4-nitro-2-bromophenoxy)benzaldehyde | FC(OC1=C(C=C(C=O)C=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])Br)F | C14H8BrF2NO5
